### PR TITLE
feat(Data/Nat/Digits): add digitsAppend API lemmas and List.mapIdx_replicate

### PR DESCRIPTION
**Pull request by xroblot**
Adds some lemmas about `Nat.digitsAppend` and `List.mapIdx_replicate`:

These complete the basic API around `Nat.digitsAppend` (already in Mathlib) that is needed downstream to relate it to `Nat.digits` and to sums indexed via `List.mapIdx`.

:robot: This PR was extracted from the [SKW project](https://github.com/xroblot/SKW) by Claude.

### CODE REVIEW

File: Mathlib/Data/Nat/Digits/Lemmas.lean [hunk 1]
```diff
@@ -44,6 +45,13 @@ theorem ofDigits_eq_sum_mapIdx (b : ℕ) (L : List ℕ) :
     simpa [List.range_succ_eq_map, List.zipWith_map_right, ofDigits_eq_sum_mapIdx_aux] using!
       Or.inl hl
 
+/-- The positional-value representation: `n` equals the sum `∑ aᵢ · bⁱ` where the `aᵢ`
+are the base-`b` digits of `n`. -/
+theorem eq_mapIdx_digits_sum (b n : ℕ) :
+    n = (List.mapIdx (fun i a ↦ a * b ^ i) (digits b n)).sum := by
+  convert ofDigits_eq_sum_mapIdx b (digits b n)
+  rw [ofDigits_digits]
```
Comment (BoltonBailey) [inline Mathlib/Data/Nat/Digits/Lemmas.lean]: Might this be better in the other direction as a simp lemma?


```suggestion
@[simp]
theorem eq_mapIdx_digits_sum (b n : ℕ) :
    (List.mapIdx (fun i a ↦ a * b ^ i) (digits b n)).sum = n := by
  rw [← ofDigits_eq_sum_mapIdx b (digits b n), ofDigits_digits]
```

Comment (BoltonBailey) [reply Mathlib/Data/Nat/Digits/Lemmas.lean]: (with this change, we could change the simpa in eq_mapIdx_digitsAppend_sum to simp)

File: Mathlib/Data/Nat/Digits/Lemmas.lean [hunk 2]
```diff
@@ -393,6 +401,42 @@ theorem sum_digits_ofDigits_eq_sum {b : ℕ} (hb : 1 < b) {l : ℕ} {L : List 
...
+    exact getLast_digit_ne_zero _ hn
+  · contrapose! h
+    rw [ne_eq, digitsAppend, List.append_right_eq_self, List.replicate_eq_nil_iff] at h
+    rw! [digitsAppend]
+    rw [List.getLast_append_right, List.getLast_replicate]
+    rwa [ne_eq, List.replicate_eq_nil_iff]
+
+/-- The positional-value formula holds for `digitsAppend`: `n` equals the sum `∑ aᵢ · bⁱ`
+where the `aᵢ` are the base-`b` digits of `n`. -/
+theorem eq_mapIdx_digitsAppend_sum (b l n : ℕ) :
```
Comment (BoltonBailey) [inline Mathlib/Data/Nat/Digits/Lemmas.lean:441]: This lemma could also be reversed and made `simp`.

File: Mathlib/Data/Nat/Digits/Lemmas.lean [hunk 3]
```diff
@@ -393,6 +401,42 @@ theorem sum_digits_ofDigits_eq_sum {b : ℕ} (hb : 1 < b) {l : ℕ} {L : List 
...
+  rw [digitsAppend, List.mem_append]
+  exact Or.inl hd
+
+theorem digitsAppend_sum_eq_digits_sum (b l n : ℕ) :
+    (digitsAppend b l n).sum = (digits b n).sum := by
+  rw [digitsAppend, List.sum_append, List.sum_replicate, nsmul_zero, add_zero]
+
+/-- `digitsAppend b l n` equals `digits b n` (i.e., no zeros were appended) if and only if
+the last element is nonzero, which happens precisely when `l ≤ (digits b n).length`. -/
+theorem digitsAppend_eq_digits_iff {b l n : ℕ} (hn : n ≠ 0) (p : digitsAppend b l n ≠ []) :
```
Comment (BoltonBailey) [inline Mathlib/Data/Nat/Digits/Lemmas.lean]: If the hypothesis `p` needed? Doesn't it follow from `hn`, which implies that the digit list of n is nonempty?

Comment (BoltonBailey) [reply Mathlib/Data/Nat/Digits/Lemmas.lean]: In general, could this lemma be split up, perhaps with a lemma like 

```
/-- `digitsAppend b l n` equals `digits b n`, i.e. no zeros were appended, exactly when the
requested length `l` does not exceed the number of digits of `n`. -/
theorem digitsAppend_eq_digits_iff_le {b l n : ℕ} :
    digitsAppend b l n = digits b n ↔ l ≤ (digits b n).length := by
  rw [digitsAppend, List.append_right_eq_self, List.replicate_eq_nil_iff, Nat.sub_eq_zero_iff_le]
```

first?

**Review by BoltonBailey — CHANGES_REQUESTED** [review]
Thanks for the PR, it's good we are giving the digit-related API more development.

File: Mathlib/Data/Nat/Digits/Lemmas.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Data/Nat/Digits/Lemmas.lean]: Indeed, it's more natural and things get simpler.

File: Mathlib/Data/Nat/Digits/Lemmas.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/Data/Nat/Digits/Lemmas.lean:441]: I changed it.

File: Mathlib/Data/Nat/Digits/Lemmas.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/Data/Nat/Digits/Lemmas.lean]: I added the new lemma you suggested and `digitsAppend_ne_nil_of_ne_zero` so that we get the hypothesis `p` for free. Also golf the proof since `grind` works very well in this situation.

**Comment by xroblot** [comment]
> Thanks for the PR, it's good we are giving the digit-related API more development.

Thanks for the review and all the suggestions! I do have a good motivation for all this API as I use it to prove Stickelberger's theorem.

**Review by BoltonBailey — APPROVED** [review]
Thanks for the changes, I think this looks great!
